US08486943B2
[(S)-7-cyano-4-(3-hydroxy-pyridin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester
[(S)-4-(3-Allyloxy-pyridin-2-ylmethyl)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester (40 g, 87.3 mmol) and 1,4-dioxane (400 mL) are combined and the mixture degassed by bubbling in nitrogen for one hour. Then triethylamine (24.4 mL, 174.7 mmol) and formic acid (6.60 mL, 174.7) are added and the mixture heated under nitrogen at 80° C. Tetrakis(triphenylphosphine)palladium (1.02 g, 0.87 mmol) is added while maintaining the nitrogen atmosphere. The reaction is heated at 80° C. for 3 h and then cooled to room temperature. The reaction is filtered through a pad of diatomaceous earth. The filtrate is evaporated and the crude material dried under vacuum to afford a brown solid. The solid is dissolved in NMP (100 mL) and then added to water (1.2 L). A pale cream solid is collected by filtration and dried overnight under vacuum to afford 41 g of crude material. The material is purified by recrystallization from acetonitrile and then dried under vacuum to constant weight to afford the title compound (29.5 g, 86%). LC-ES/MS m/z: 391.1 [M+H]+.

reactant | [(S)-4-(3-Allyloxy-pyridin-2-ylmethyl)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 87.3 mmol, 40 g | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2OCC=C)C1)=O | C25H26N4O3
reactant | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
reactant | triethylamine | 174.7 mmol, 24.4 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 6.60 mL | C(=O)O | CH2O2
solvent | NMP | 100 mL | CN1CCCC1=O | C5H9NO
catalyst | Tetrakis(triphenylphosphine)palladium | 0.87 mmol, 1.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1.2 L | O | H2O
product | [(S)-7-cyano-4-(3-hydroxy-pyridin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 29.5 g, 86% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2O)C1)=O | C22H22N4O3
